US08378104B2
Step A: 2-amino-5-bromo-6-fluoro-3-nitro-benzonitrile
To a cooled (0° C.) solution of 6-amino-3-bromo-2-fluoro-benzonitrile (8.0 g, 37 mmol) in acetonitrile (40 mL) under nitrogen was added dropwise a solution of nitronium tetrafluoroborate in acetonitrile. The reaction mixture and stirred for 16 h at RT. The reaction mixture was treated with brine and extracted with ethyl acetate. The organic fraction was washed with water followed by brine and dried over anhydrous sodium sulfate, filtered and concentrated. Purification by column chromatography (10 to 20% ethyl acetate:hexanes) afforded 5.0 g (52%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 8.6 (d, J=6.9 Hz, 1H), 6.8-7.1 (br. s, 2H).

reactant | 6-amino-3-bromo-2-fluoro-benzonitrile | 37 mmol, 8.0 g | NC1=CC=C(C(=C1C#N)F)Br | C7H4BrFN2
reactant | nitronium tetrafluoroborate | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | 2-amino-5-bromo-6-fluoro-3-nitro-benzonitrile | 5.0 g, 52% | NC1=C(C#N)C(=C(C=C1[N+](=O)[O-])Br)F | C7H3BrFN3O2
